Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"They should never have called"

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ man with no past psychiatric history, 
family history of suicide, brought in by EMS after girlfriend 
reported suicidal statements. 

Per ___, MD's ___ initial ED consult note: 
"Patient is a ___ M with no past medical or psychiatric history 
presenting for evaluation of alcohol intoxication as well as 
making suicidal statements. Patient's girlfriend called ___ and 
patient was transported to the hospital. Psychiatry was 
consulted for safety assessment.

On interview, patient states, "I didn't say anything, nothing 
happened." This interviewer asked if that was really the truth, 
and patient stated, "What do you want to hear so I can get out 
of here?" I asked the patient to tell me the truth and he states 
that he got fired 2 weeks ago, drank too much tonight, and "the 
liquor went to my head and I didn't have a good hold on my 
emotions." He adamantly denies making any suicidal statements. 
He is vague about what happened tonight and continues to say 
"Nothing happened, what do you want me to say, I'm fine, I need 
to get out of here." He estimates that he drank ___ shots and 
___ beers over the course of ~6 hours. He states that he drinks 
this heavily ~once per month. He was out at a bar with some 
college friends and his girlfriend tonight.

Patient states that he was fired 2 weeks ago from his job where 
he worked ___ at the ___. He states that he 
was fired because he ignored a tenant report of a safety 
concern. He states that losing his job was unexpected and 
greatly upsetting to him. He had worked this job for over a year 
and states that he loved it. However, later in the interview 
when I pointed out how difficult these last 2 weeks must have 
been for him, he states, "It's actually been fine, I was 
relieved to get fired, I never liked that job anyways." He 
denies any depressive symptoms, states that he has been eating 
and sleeping well and that he is excited about life and "looking 
forward to what's next." Notably, patient says all these things 
in a very forced, ___ happy tone, even when he is 
tearful at times he works incredibly hard to hide it.

Patient's father committed suicide by hanging when patient was 
___. His mother died when patient was ___ after choking on food 
at a restaurant. Patient's older sister committed suicide by 
overdose in ___. Patient went to live with his aunt and uncle 
in ___ after his mother died. He was evaluated by a psychiatrist 
at this time, but patient proudly states that he was "cleared" 
and never had to go back to see the psychiatrist again. He has 
never had a therapist, has never taken any psychiatric 
medication. Patient denies every having thoughts of suicide 
himself, and denies any prior suicide attempts.

At the conclusion of the interview, when I explained what a 
___ was, patient became acutely dysregulated, screaming 
"I'm stuck here, I knew it, I have to get the fuck out of here, 
get out of my way, I'm going to sue this hospital, my girlfriend 
is a ___ slut whore!"

Collateral Contacts: Patient's girlfriend, ___, 
___ been going through a lot recently - lost his 
job 2 weeks ago. He's suffered with depression a lot although 
it's not diagnosed. He's had a rough past. Over last week, he 
has made several statements that he wants to kill himself. 
"Point blank he says he is going to kill himself." States that 
this morning he was googling how to tie a noose. Tonight he was 
talking a lot about wanting to kill himself, told his girlfriend 
he was going to kill himself today or tomorrow, he had decided 
for sure he was going through with this and it was going to be 
soon. When his girlfriend and friends tried to talk to him about 
this, he ran away from the bar they were at. Friends chased 
after him and found him crying behind a dumpster, they called 
911. Girlfriend says that he has "high highs and low lows" - 
"one minute he says no one's ever going to hire me, life is not 
worth living, and the next minute he tells me he applied to 4 
jobs." She is extremely worried about it and thinks that he will 
kill himself if he leaves here.

Psychiatric ROS: Depression - denies symptoms including 
anhedonia, hopelessness, guilt, fatigue, difficulty 
concentrating, changes in appetite, and sleep disturbances. 
Psychosis - denies symptoms including delusions (persecutory, 
grandiose, thought broadcasting/insertion/withdrawal) or 
hallucinations (auditory, visual, olfactory, or tactile). Mania- 
denies symptoms including elevated mood or irritability, marked 
increases in ___ behavior, racing thoughts, a 
decreased need for sleep, or social/economic indiscretion 
Anxiety - denies symptoms including panic attacks or 
agoraphobia.

Medical ROS: All negative on a ___ ROS including no fever, 
HA, eye pain, hearing deficit, chest pain, difficulty breathing, 
abdominal pain, constipation, diarrhea, musculoskeletal pain" 
___ EMS: ___ yom, warm and dry, found outside with BPD on 
scene c/c SI. ETOH odor. Pt cooperative with transport but 
uncooperative with questions and not allowing crew to examine 
pt. Pt used foul language to crew. Per BPD, pt made S/I 
statements to friends and family ___, pt has been making 
statements tonight and for the past 2 days. Pt going through a 
rough time, admits to depression. BPD escort to BID. Pt 
transported without any other issues other than stated. Report 
and treatment transferred to BID ER."

ED Course: Notable for irritability and anxiety, frustration 
with bed search and ___ psychiatric hold. Written for 
lorazepam 0.5mg po TID PRN anxiety/insomnia, taken infrequently. 


On admission, patient states that he is happy to be here, 
looking forward to getting help. He does feel that his friends 
should have reached out to his aunt/uncle instead of police, but 
that they were worried about him. He does not recall exactly 
what he said to make people concerned, knows that he was talking 
to at least his girlfriend but also had 2 college friends 
visiting. Patient was very intoxicated, reports having at least 
___ beers, then several beers at a brewery, and then mixed 
drinks from there. Denies daily drinking, last drunk 2 months 
ago. Drinking heavily due to visiting friends. Patient's last 
week has been stressful, having lost his first job and unsure 
how to navigate. Reflects relief as he hated his job; now not 
sure which direction to pursue but would like something related 
to police work or criminal justice/psychology background.

Feels he would never kill himself ("I would never do that"), as 
"I know what that does to people's families" and already feels 
his friends and family are being torn apart. Feels that 
psychiatric hospitalization was worst possible outcome from his 
behavior this weekend, understands his friends and others would 
consider suicide the worst outcome overall and agrees regarding 
this. Denies having plan, states he was researching a noose not 
to kill himself but to learn another knot. No specific plans for 
knot/noose. Lists several other knots he knows, including sailor 
and double knot. Denies plan or intent for suicide. When asked 
why people might commit suicide, says it is individual, may be 
accidental (like his sister's overdose, which he does not think 
is intentional), or have mental health issues, or problems in 
their life. 

Denies depression. Feels he does struggle with anxiety, worries 
about everything, particularly about the future and 
uncertainties. Looking forward to learning coping skills during 
hospital stay. Did a previous term paper on SSRIs and believes a 
correlation with violence and psychotropics (mass murderers); 
prefers to avoid medication if possible.

COLLATERAL: Aunt/uncle as former legal guardians during his 
youth, seen with patient, deny any preceding psychiatric 
history, feel his friends ___ while he was drunk, and 
that he should be discharged as soon as possible. Discouraging 
him from signing any legal paperwork. Referred to patient rights 
advocate ___ for further questions on his legal 
rights and hospital stay. 
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
- Prior diagnoses: denies
- Hospitalizations: none
- Psychiatrist: none; seen by child psychiatrist after mother
died but did not follow after intake
- Therapist: none
- Medication trials: denies
- ___ trials: denies
- Suicide attempts: denies
- ___ behavior: denies
- Harm to others: denies
- Trauma: father and sister died by suicide; denies trauma
history
- Access to weapons: denies

PAST MEDICAL HISTORY:
None

Denies history of head trauma, seizure.
 
MEDICATIONS:
None 

ALLERGIES: 
NKDA
 
Social History:
SUBSTANCE USE HISTORY:
- Alcohol:  ___ drinks/sitting once per week; binge drinks 10+ 
about once a month with friends 
- ___: denies; uses ___ occasionally, last in ___
(stopped after ban)
- Marijuana: weekly use; takes a couple months to go through an
eighth
- Opiates: denies
- Cocaine: denies
- Other Drugs: Denies

FORENSIC HISTORY:
- Arrests: Denies
- Convictions and jail terms: Denies
- Current status (pending charges, probation, parole): N/A

SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
- Psychiatric Diagnoses: unknown 
- Suicide Attempts/Completed Suicides: father - committed 
suicide
by hanging when patient ___ older sister -  overdose in ___,
relapsed after rehab, does not know if intentional
- Substance Use Disorders: sister 
 
Physical ___:
EXAM:
VS: T: 98.0, HR: 72, BP:  150/80, RR: 16, SpO2: 99% on RA

Wt: ___: Weight: 175 (Estimated) (Entered in Nursing IPA)
Ht: ___: Height: 69 (Patient Reported) (Entered in Nursing
IPA)
BMI: ___: BMI: 25.8
 
Physical Exam: 
GEN: no acute distress
HEENT:  Normocephalic, atraumatic. Moist mucous membranes.
Anicteric sclera. 
CV:  slow rate, normal S1, S2. No murmurs/rubs/gallops. 
RESP: ___. Clear to auscultation bilaterally. No
wheezes/rales/rhonchi.  
ABD: Soft, ___. Positive bowel sounds
EXT: Warm and well perfused. No gross deformity. No peripheral
edema.
SKIN: No rashes or lesions noted.
 
Neurological Exam: 
- Cranial nerves: 
  II: PERRLA 4mm to 2mm, brisk bilaterally
  III, IV, VI: extraocular movements intact. no nystagmus.
  V: facial sensation to touch equal in all 3 divisions
bilaterally
  VII: face symmetric  on eye closure and smile
  VIII: hearing normal bilaterally to rubbing fingers
  IX, X: palate elevates symmetrically
  XI: head turning and shoulder shrug intact
  XII: tongue midline. 
- Reflexes: 2+ and symmetrical biceps, brachioradialis, patellar
- Motor:  ___ biceps, triceps, iliopsoas, quadriceps, 
hamstrings.
Normal bulk. 
- Sensation: intact and symmetric to light touch. 
- Gait and station:  Good initiation. ___ gait, normal
stride and ___. No ataxia noted. Normal coordination of
finger to nose and heel to shin testing. 
- Abnormal movements:  No tremor or abnormal movements
appreciated.
 
Cognition: Per initial evaluation with ___ on ___: 
 "Wakefulness/alertness: awake and alert
 *Attention (digit span, MOYB): MOYB with 0 errors
 *Orientation: oriented to person, place, time, and situation
 *Memory: ___ registration and ___ recall
 *Fund of knowledge: intact to last 3 presidents
 Calculations:  "7 quarters in $1.75" 
 Abstraction:  "The grass is greener on the other side" -> "as
shitty as things are right now they can only get better, there's
always hope"
 *Language: Fluent without paraphrasic errors"
 
Mental Status:
- Appearance: man appearing stated age, wearing hospital gown,
baseball hat, in no apparent distress
- Behavior: Sitting upright, appropriate eye contact. No
psychomotor agitation or retardation
- Attitude: Cooperative, engaged, pleasant, forthcoming.
- Mood: "fine"
- Affect: ___, euthymic, reactive, full range,
appropriate to situation
- Thought process: Linear, coherent, ___, no loose
associations
- Thought Content:
  Safety: Denies SI
  Delusions: No evidence of paranoia, etc. 
  Obsessions/Compulsions: No evidence based on current encounter
  Hallucinations: No AVH, not appearing to be attending to
internal stimuli
  Insight / Judgment: Limited / Poor
 
Pertinent Results:
___: WBC: 7.1
___: RBC: 4.82
___: HGB: 14.9
___: HCT: 43.4
___: MCV: 90
___: MCH: 30.9
___: MCHC: 34.3
___: RDW: 11.6
___: Plt Count: 191
___: Neuts%: 57.8
___: Lymphs: 33.1
___: MONOS: 4.9*
___: Eos: 3.2
___: BASOS: 0.6
___: AbsNeuts: 4.11

___: Na: a) 145; b) 142
___: K: a) 4.2; b) 4.7
___: Cl: a) 104; b) 103
___: CO2: a) 22; b) 24
___: BUN: a) 16; b) 19
___: Creat: a) 1.1; b) 1.4*
___: Glucose: a) 98 (If fasting, ___ normal, >125
provisional diabetes); b) 107* (If fasting, ___ normal, >125
provisional diabetes)

___: Urine pH (Hem): 6.5
___: Urine Glucose (Hem): NEG
___: Urine Protein (Hem): 20*
___: Urine Bilirubin (Hem): NEG
___: Urobilinogen: NORMAL
___: Urine Ketone (Hem): NEG
___: Urine Blood (Hem): NEG
___: Urine Nitrite (Hem): NEG
___: Urine Leuks (Hem): NEG

___: Benzodiazepine: NEG (Benzodiazepine immunoassay screen
does not detect some drugs,; including Lorazepam, Clonazepam, 
and
Flunitrazepam)
___: Barbiturate: NEG
___: Opiate: NEG (Opiate assay does not reliably detect
synthetic opioids; such as Methadone, Oxycodone, Fentanyl,
Buprenorphine, Tramadol,; Naloxone, Meperidine. See online Lab
Manual for details)
___: Cocaine: NEG
___: Amphetamine: NEG
___: Methadone: NEG (Methadone assay detects Methadone (not
other Opiates/Opioids); Quetiapine (Seroquel) may cause a false
positive result)

___ 02:05AM BLOOD ASA: NEG Ethanol: ___ Acetmnp: NEG
Tricycl: NEG 

EKG HR 60, NSR, QTc ___ISCHARGE SUMMARY

1. LEGAL & SAFETY:  
 On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11), as well as a ___ notice 
signifying his intent to discharge, set to expire on ___.  
At that time the patient was not deemed to be at risk of harm to 
self given resolution of suicidal ideation since sober, and the 
patient was discharged.  They were also granted monitored sharps 
access, and placed on 15 minute checks status on admission and 
remained on that level of observation throughout while being 
unit restricted.

2. PSYCHIATRIC:
 #) Adjustment Disorder with mixed mood features
 #) Generalized Anxiety Disorder
 1) On interview, patient reported stress and anxiety since job 
termination 2 weeks ago. His girlfriend reported that since 
then, the patient seemed dysregulated and depressed, made 
several suicidal statements over the past week, and had 
researched how to tie a noose on the day of presentation, 
reporting intent over the next ___ days. He was found 
intoxicated, having deserted his friends at a bar. Family denies 
preceding psychiatric history; will obtain more collateral and 
plan for family meeting. Initial lab work notable for elevated 
BAL of 171. Initial exam notable for linear thought process, 
appropriate eye contact, euthymic but anxious affect. 
 2) Differential diagnosis includes ___ mood 
disorder, major mood episode (unipolar vs. bipolar disorder 
given mood dysregulation), adjustment disorder in response to 
termination, generalized anxiety disorder. It is possible that 
patient made suicidal statements purely in the setting of 
intoxication, but strong family history of suicide and 
collateral from girlfriend suggestive of intent/plan and 
worsened dysphoria/mood dysregulation was still highly 
concerning. Overall, favored diagnosis of GAD given lifelong 
___ worries, superimposed on adjustment disorder 
with mixed mood features in the setting of recent job loss. 
 3) Interventions proposed included trial of medication, 
including PRN hydroxyzine and SSRI for anxiety symptoms. We also 
offered PRN Ramelteon due to patient's difficulty sleeping in 
the ED. However, patient remained opposed to medications, and 
did not trial any medications during his stay (he did receive 
rare doses of ___ lorazepam while in the ED with good 
effect on sleep and anxiety). He opted to focus on developing 
coping skills, and did attend groups regularly.   
 4) Outcome of hospitalization was reported resolution of 
suicidal ideation and decrease in anxiety. He did gain some 
insight into the problematic suicidal statements and drinking 
which lead to his admission, and ultimately understood his 
friends and girlfriend's concerns. Patient planned to continue 
therapy. 
 5) Possible future interventions for outpatient providers 
include SSRI and PRN anxiety medication trials. Patient has 
relatively poor insight into his mental illness, externalizing 
many factors, and remains somewhat opposed to engagement in 
treatment. Would continue to challenge these beliefs and stigma 
around mental health. Patient might benefit from CBT for 
cognitive reframing, or DBT for emotional regulation. 

3. SUBSTANCE USE DISORDERS:
 #) Cannabis Use Disorder: Provided psychoeducation and 
discussed the importance of abstinence from marijuana. Patient 
committed to not smoking in the future. Provided with outpatient 
sobriety resources. 

 #) Alcohol Use Disorder, ___:  Patient with negative 
consequences of acute intoxication; reports infrequent but 
___ alcohol ingestions, seemingly in times of distress 
and for coping. Discussed the risks of alcohol and substance use 
on impulsivity and frequent association with suicide attempts 
and completions. Patient states he will cut back drinking. 
Provided with outpatient sobriety resources.

4. MEDICAL: No acute medical needs. 

5. PSYCHOSOCIAL
 #) GROUPS/MILIEU:  
 The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient often attended these groups that focused on teaching 
patients various coping skills and physical movement.  Patient 
was visible in milieu, reading and watching television. Pleasant 
on staff approach. Typically isolative from peers, keeping to 
himself. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Family of aunt and uncle (former legal ___ in ___) and 
girlfriend were involved in patient's treatment and aftercare 
planning. They were involved in regular family meetings and 
provided significant collateral. 

 #) INTERVENTIONS
 - Medications: patient declined; offered PRN hydroxyzine 25mg 
po BID and PRN Ramelteon 8mg nightly, but did not take
 - Psychotherapeutic Interventions: Individual, group, and 
milieu therapy.
 - Coordination of aftercare: ___ therapy, community clinic 
for PCP 
 - ___: cognitive reframing, 
___, safety planning, identifying coping skills
 -Guardianships: none

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting hydroxyzine (confusion, dry mouth, constipation, 
urinary symptoms, sedation), and Ramelteon (sedation, 
hepatoxicity) and risks and benefits of possible alternatives, 
including not taking the medication, with this patient. We 
discussed the patient's right to decide whether to take this 
medication as well as the importance of the patient's actively 
participating in the treatment and discussing any questions 
about medications with the treatment team.  The patient appeared 
able to understand and decided not to take the medication.

RISK ASSESSMENT & PROGNOSIS
 On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself based upon telling his 
girlfriend he was having thoughts of killing himself, and 
researching how to tie a knot to make a noose.  Their static 
factors noted at that time include chronic mental illness, 
history of substance abuse, male gender, Caucasian race, age, 
family history of completed suicide, family psychiatric and 
substance use history.  Modifiable risk factors of impulsivity, 
limited insight, limited coping skills, no psychotropic regimen, 
and lack of outpatient providers were addressed by connecting 
patient to outpatient therapist and inpatient therapeutic 
intervention. Patient ultimately declined psychotropic regimen.  
Finally, the patient is being discharged with many protective 
risk factors, including supportive family and girlfriend, 
___ thinking (wants to get insurance coverage and 
look for new job), commitment to sobriety from alcohol and 
cannabis, linear thinking, and most importantly, resolution of 
suicidal ideation. Based on the totality of our assessment at 
this time, the patient is not at an acutely elevated risk of 
___ nor danger to others. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
Patient declined medication. 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
generalized anxiety disorder
adjustment disorder with mixed emotional features
cannabis use disorder
alcohol use disorder; ___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
.
Mental Status:
- Appearance: young Caucasian man appearing stated age, dressed 
casually, baseball hat, in no apparent distress
- Behavior: Sitting upright, appropriate eye contact. No 
psychomotor agitation or retardation
- Attitude: Cooperative, engaged, pleasant.
- Mood: 'better', 'anxiety low'
- Affect: ___, mostly euthymic with some anxiety, 
reactive, full range, appropriate to situation, slightly 
irritable, 
- Thought process: Linear, coherent, ___, no loose
associations
- Thought Content:
  Safety: Denies SI; states he would reach out to friends and 
family if urges recurred, understands they may call ___ or bring 
him to the hospital
  Delusions: No evidence of paranoia, etc. 
  Obsessions/Compulsions: No evidence based on current encounter
  Hallucinations: No AVH, not appearing to be attending to
internal stimuli
  Insight / Judgment: Fair / Fair
Speech: Normal volume, slightly fast rate, normal prosody and 
tone. 
Language: Fluent ___

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___